US07589076B2
2-{3-[1-((4-Methoxycarbonylphenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-9-151. 4-(methoxycarbonyl)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-85 (0.670 g, 2.223 mmol) was added to a solution of 2-iodoadenosine (0.675 g, 1.717 mmol) according to general procedure 2. Yield: 0.648 g, 67%. 1H NMR (CD3OD) δ 8.30 (s, 1H), 8.04-7.20 (2×m, 4H), 5.94 (d, 1H), 4.69 (m, 2H), 4.32-3.71 (4×m, 8H), 3.91-2.71 (2×d, 2H), 3.16-2.90 (2×bt, 4H), 2.48 (d, 5H), 1.98-1.45 (2×m, 5H). m/z MH+=567.14. HPLC rt=7.9 min.

reactant | 4-(methoxycarbonyl)phenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C17H19NO4
reactant | 2-iodoadenosine | 1.717 mmol, 0.675 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Methoxycarbonylphenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine | COC(=O)C1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C27H30N6O8
